US08349880B2
Step R (4): Iodomethane (0.413 mL, 6.63 mmol) was added to a solution of 1-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (1.7 g, 6.31 mmol) in absolute ethanol (50 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed under high vacuum to afford methyl 3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (2.4 g, 5.84 mmol, 92% yield) as a grey solid. LC-MS (M+H)+ 284.0. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.86 (s, 1 H), 7.50 (d, J=8.9 Hz, 2 H), 2.71 (s, 3 H), 2.38 (s, 3 H).

reactant | Iodomethane | 6.63 mmol, 0.413 mL | IC | CH3I
reactant | 1-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 6.31 mmol, 1.7 g | FC=1C=C(C=C(C1N1N=C(N=C1)C)F)NC(=S)N | C10H9F2N5S
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl 3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 5.84 mmol, 2.4 g, 92% yield | I.FC=1C=C(C=C(C1N1N=C(N=C1)C)F)NC(=N)SC | InChI=1S/C11H11F2N5S.HI/c1-6-15-5-18(17-6)10-8(12)3-7(4-9(10)13)16-11(14)19-2;/h3-5H,1-2H3,(H2,14,16);1H
